US05030724
2,3-Dihydroxy-5-sulfobenzoic acid dipotassium salt
2,3-Dihydroxybenzoic acid (15.4 g, 0.1 moles) was dissolved in small portions at 5° C. in 80 ml of sulfuric acid containing 30% sulfur trioxide. The mixture was allowed to warm to 20° C. over 1 h and was then poured slowly into 1L of vigorously stirred ice water. The pH was adjusted to 4.5 with 30% potassium hydroxide and the solid formed was removed by filtration. The filtrate was diluted with a 1.5 fold volume of methanol and filtered again. This filtrate was evaporated to 200 ml and the pH was adjusted to 6.0 with potassium hydroxide. Acetone (500 ml) was added and the resulting white precipitate was filtered and dried to give 18 g of crude product. Chromatography of this solid on HP20 in water gave 12.8 g of pure title compound after lyophilization.

reactant | 2,3-Dihydroxybenzoic acid | 0.1 moles, 15.4 g | OC1=C(C(=O)O)C=CC=C1O | C7H6O4
reactant | potassium hydroxide | [OH-].[K+]
reactant | sulfuric acid | 80 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 2,3-Dihydroxy-5-sulfobenzoic acid dipotassium salt | 12.8 g | [K+].[K+].OC1=C(C(=O)[O-])C=C(C=C1O)S(=O)(=O)O.OC1=C(C(=O)[O-])C=C(C=C1O)S(=O)(=O)O | InChI=1S/2C7H6O7S.2K/c2*8-5-2-3(15(12,13)14)1-4(6(5)9)7(10)11;;/h2*1-2,8-9H,(H,10,11)(H,12,13,14);;/q;;2*+1/p-2
